US07041681B2
4-{2-amino-3-oxo-3-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-benzamide
To {1-(4-carbamoyl-2,6-dimethyl-benzyl)-2-oxo-2-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester (0.60 g, 1.10 mmol) was added 0° C. trifluoroactic acid (4 mL). The resulting solution was warmed to room temperature, and after 30 minutes the excess trifluoroacetic acid was removed under a stream of nitrogen. This material was purified via a Gilson preparative HPLC resulting in the isolation of desired product 4-{2-amino-3-oxo-3-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-benzamide as a white solid after lyophilization, which proved 100% pure by HPLC at 254 and 214 nm, (LC/MS; Measured MW (MH+): 446).

reactant | {1-(4-carbamoyl-2,6-dimethyl-benzyl)-2-oxo-2-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester | 1.10 mmol, 0.60 g | C(C)(C)(C)OC(NC(C(N1C(CCCC1)C=1NC=C(N1)C1=CC=CC=C1)=O)CC1=C(C=C(C=C1C)C(N)=O)C)=O | C31H39N5O4
reactant | trifluoroactic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-{2-amino-3-oxo-3-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-benzamide | NC(CC1=C(C=C(C(=O)N)C=C1C)C)C(N1C(CCCC1)C=1NC=C(N1)C1=CC=CC=C1)=O | C26H31N5O2
